US03963730
A solution of 5.0 g. of acetonine in a mixed solvent comprising 19 g. of acetone and 1.9 g. of methanol was added with 1.5 g. of triacetonamine hydrochloride. The mixture was heated at 60°C. for 10 hours in a sealed equipment to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 1 to obtain triacetonamine in a yield of 115% deducting the amount of triacetonamine used as catalyst.

reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | acetone | CC(=O)C | C3H6O
reactant | triacetonamine hydrochloride | CC1(CC(=O)CC(N1)(C)C)C.Cl
solvent | methanol | CO | CH4O
product | triacetonamine | yield of 115% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
